US09163011B2
j) ((R)-4-{6-[(5-Cyano-3-methyl-pyridine-2-carbonyl)-amino]-3-fluoro-pyridin-2-yl}-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl)-carbamic acid tert-butyl ester
A degassed mixture of [(R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazine-2-yl]-carbamic acid tert-butyl ester (70 mg, 0.145 mmol), 5-cyano-3-methyl-pyridine-2-carboxylic acid amide (25.7 mg, 0.160 mmol), Xantphos (30.2 mg, 0.052 mmol), caesium carbonate (67.6 mg, 0.203 mmol) and Pd2(dba)3 (16.45 mg, 0.017 mmol) was heated under argon in dioxane (2.9 ml) at 60° C. for 5 hours. The reaction mixture (grey-brown suspension) was diluted with ethyl acetate and aq. bicarbonate solution and was then filtered. The filtrate was washed with water and brine, dried over sodium sulfate, filtered and evaporated. 166 mg brown solid. The crude product was chromatographed over silica gel (toluene/ethyl acetate 7:3) to give the title compound as a white solid. 28 mg (38% yield).

reactant | [(R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazine-2-yl]-carbamic acid tert-butyl ester | 0.145 mmol, 70 mg | C(C)(C)(C)OC(NC=1OCC([C@@](N1)(C)C1=NC(=CC=C1F)Br)(F)F)=O | C15H17BrF3N3O3
reactant | 5-cyano-3-methyl-pyridine-2-carboxylic acid amide | 0.160 mmol, 25.7 mg | C(#N)C=1C=C(C(=NC1)C(=O)N)C | C8H7N3O
reactant | Xantphos | 0.052 mmol, 30.2 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | caesium carbonate | 0.203 mmol, 67.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2.9 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | bicarbonate | C([O-])(O)=O
catalyst | Pd2(dba)3 | 0.017 mmol, 16.45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ((R)-4-{6-[(5-Cyano-3-methyl-pyridine-2-carbonyl)-amino]-3-fluoro-pyridin-2-yl}-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl)-carbamic acid tert-butyl ester | 38% yield | C(C)(C)(C)OC(NC=1OCC([C@@](N1)(C)C1=NC(=CC=C1F)NC(=O)C1=NC=C(C=C1C)C#N)(F)F)=O | C23H23F3N6O4
